US07611692B2
A 40% solution of methylamine (6.14 mL; 7.1 mmol) was added to 2-[(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)methyl]benzoic acid C (2 g; 7.1 mmol) and then EtOH (30 mL) was added. After 5 minutes stirring at room temperature the reaction mixture was heated at 50° C. After 2.5 h, the mixture was cooled and the solvent was evaporated under reduced pressure. The crude product was suspended in 50 mL of absolute ethanol and the suspension was stirred at room temperature for 1 h. The solid was filtered and washed with EtOH to afford 2-(aminomethyl)benzoic acid D (0.87 g; 5.8 mmol). Yield 81%.

reactant | methylamine | 7.1 mmol, 6.14 mL | CN | CH5N
reactant | 2-[(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)methyl]benzoic acid | O=C1N(C(C2=CC=CC=C12)=O)CC1=C(C(=O)O)C=CC=C1 | C16H11NO4
solvent | EtOH | 30 mL | CCO | C2H6O
product | 2-(aminomethyl)benzoic acid | Yield 81% | NCC1=C(C(=O)O)C=CC=C1 | C8H9NO2
